US09108936B2
To a solution of (2S)-3,3-dimethyl-butane-1,2-diol (3.1 g, 26.3 mmol) in dichloromethane (25 ml) is added pyridine (4.3 ml, 52.6 mmol). To the mixture is then added dropwise a solution of 4-toluenesulfonyl chloride (5.0 g, 26.3 mmol) in dichloromethane (25 ml) at 0° C. The reaction mixture is warmed to room temperature and stirred for additional 16 h. The reaction mixture is diluted with dichloromethane (50 ml) and washed with 10% copper(II) sulfate solution (2×30 ml). The organic layer is dried over sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 5% ethyl acetate/hexane) affording 4-methyl-benzenesulfonic acid [(2S)-2-hydroxy-3,3-dimethyl-butyl]ester (4.2 g, 14.4 mmol, 54%).

reactant | (2S)-3,3-dimethyl-butane-1,2-diol | 26.3 mmol, 3.1 g | CC([C@@H](CO)O)(C)C | C6H14O2
reactant | pyridine | 52.6 mmol, 4.3 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-toluenesulfonyl chloride | 26.3 mmol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-methyl-benzenesulfonic acid [(2S)-2-hydroxy-3,3-dimethyl-butyl]ester | 14.4 mmol, 4.2 g, 54% | O[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C13H20O4S
